US07491829B2
Step 1: Preparation of (E)-3-(dimethylamino)-1-(pyridin-4-yl)prop-2-en-1-one:
To 4-acetylpyridine (23 mL) in 350 mL toluene was added 55 mL N,N-dimethylformamide dimethyl acetal. The solution was refluxed for 3 hours and allowed to stir at ambient temperature overnight. An additional 33 mL N,N-dimethylformamide dimethyl acetal of was added. After refluxing for 7 hours, the mixture was concentrated to leave an orange solid. This material was treated with diethyl ether. The resulting yellow solid was collected by vacuum filtration. A total of 25.85 g (71% yield) yellow solid was obtained. 1H NMR (CDCl3) was consistent with the desired structure. LC/MS indicated a single peak with a M+1 molecular ion of m/z 177.1 by positive ESI (electrospray ionization mass spectrometry).

reactant | 4-acetylpyridine | 23 mL | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | N,N-dimethylformamide dimethyl acetal | 55 mL | COC(N(C)C)OC | C5H13NO2
reactant | N,N-dimethylformamide dimethyl acetal | 33 mL | COC(N(C)C)OC | C5H13NO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(dimethylamino)-1-(pyridin-4-yl)prop-2-en-1-one | 25.85 g, 71% yield | CN(/C=C/C(=O)C1=CC=NC=C1)C | C10H12N2O
